US07943669B2
Step B: {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic Acid
{2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (262 mg; 0.45 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate, dried and evaporated to dryness. The organic phase was purified by preparative HPLC (method B). Yield: 174 mg (68%). HPLC-MS: m/z: 559.5 (M+H)+; Rt: 1.81 min.

reactant | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.45 mmol, 262 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=C(C=C1)C(F)(F)F)C#CCN1CCOCC1)C)=O | C30H29F3N2O5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic Acid | CC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)OC1=NC=C(C=C1)C(F)(F)F)C#CCN1CCOCC1 | C28H25F3N2O5S
